US07439393B2
ii) 3-Amino-N-[3-({2-({6-[(5R)-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-2-oxo-1,3-oxazolidin-3-yl]hexyl}oxy)ethoxy}methyl)phenyl]benzamide
A solution of N-[3-({2-({6-[(5R)-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-2-oxo-1,3-oxazolidin-3-yl]hexyl}oxy)ethoxy}methyl)phenyl]-3-nitrobenzamide (2.11 g) in EtOAc (30 ml) and EtOH (30 ml) was hydrogenated over platinum oxide (100 mg). After 1.25 h the mixture was filtered through celite and the filtrate evaporated in vacuo to give the title compound (1.955 g). LCMS RT=3.49 min, ES+ve 618 (MH)+.

reactant | N-[3-({2-({6-[(5R)-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-2-oxo-1,3-oxazolidin-3-yl]hexyl}oxy)ethoxy}methyl)phenyl]-3-nitrobenzamide | 2.11 g | CC1(OCC2=C(O1)C=CC(=C2)[C@@H]2CN(C(O2)=O)CCCCCCOCCOCC=2C=C(C=CC2)NC(C2=CC(=CC=C2)[N+](=O)[O-])=O)C | C35H41N3O9
solvent | EtOAc | 30 ml | CCOC(=O)C | C4H8O2
solvent | EtOH | 30 ml | CCO | C2H6O
catalyst | platinum oxide | 100 mg | [Pt]=O
product | 3-Amino-N-[3-({2-({6-[(5R)-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-2-oxo-1,3-oxazolidin-3-yl]hexyl}oxy)ethoxy}methyl)phenyl]benzamide | 1.955 g | NC=1C=C(C(=O)NC2=CC(=CC=C2)COCCOCCCCCCN2C(O[C@@H](C2)C2=CC3=C(OC(OC3)(C)C)C=C2)=O)C=CC1 | C35H43N3O7
